US07241791B2
Step 1: 7-fluoro-1-isobutyl-3-(4-methoxy-2-methylphenyl)-1H-indazole
Prepared according to Method D step B from 7-fluoro-3-(4-methoxy-2-methylphenyl)-1H-indazole (0.300 g, 1.20 mmol), sodium hydride (60% in oil, 0.058 g, 1.50 mmol) and 1-iodo-2-methylpropane (0.23 mL, 2.00 mmol) to give the title compound (0.374 g) as a white solid.

reactant | 7-fluoro-3-(4-methoxy-2-methylphenyl)-1H-indazole | 1.20 mmol, 0.300 g | FC=1C=CC=C2C(=NNC12)C1=C(C=C(C=C1)OC)C | C15H13FN2O
reactant | sodium hydride | 1.50 mmol, 0.058 g | [H-].[Na+]
reactant | 1-iodo-2-methylpropane | 2.00 mmol, 0.23 mL | ICC(C)C | C4H9I
product | 7-fluoro-1-isobutyl-3-(4-methoxy-2-methylphenyl)-1H-indazole | 0.374 g | FC=1C=CC=C2C(=NN(C12)CC(C)C)C1=C(C=C(C=C1)OC)C | C19H21FN2O
